US07138425B2
f) 2-[3-(6-Chlorocarbonylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid benzyl ester
Prepared by the method of Example 15a), from 2-[3-(5-benzyloxycarbonyl-1,3-dioxo-1,3-dihydro-isoindol-2-yl)phenyl]benzoxazole-6-carboxylic acid (2.50 g, 5.0 mmol) and oxalyl chloride (2.19 ml, 25 mmol) the subtitle compound was obtained. The product was used directly in the next step without purification.

reactant | 2-[3-(5-benzyloxycarbonyl-1,3-dioxo-1,3-dihydro-isoindol-2-yl)phenyl]benzoxazole-6-carboxylic acid | 5.0 mmol, 2.50 g | C(C1=CC=CC=C1)OC(=O)C=1C=C2C(N(C(C2=CC1)=O)C=1C=C(C=CC1)C=1OC2=C(N1)C=CC(=C2)C(=O)O)=O | C30H18N2O7
reactant | oxalyl chloride | 25 mmol, 2.19 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 2-[3-(6-Chlorocarbonylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C=1C=C2C(N(C(C2=CC1)=O)C1=CC(=CC=C1)C=1OC2=C(N1)C=CC(=C2)C(=O)Cl)=O | C30H17ClN2O6
